US05446153
6-Chloro-2,7-dimethyl-1-(1,1-dimethylethyl)N4,N4 -bis(phenylmethyl)-1H -imidazo[4,5-c]pyridin-4-amine
6-Chloro-5-methyl-N4 -(1,1-dimethylethyl)-N2,N2 -bis(phenylmethyl)pyridine-2,3,4-triamine was combined with an excess of triethyl orthoacetate and heated first on a steam bath for about 16 hours and then in an oil bath at 130° C. for 2 hours. The excess triethylorthoacetate was distilled off under vacuum. The resulting residue was diluted with methylene chloride, washed with water and sodium bicarbonate solution, dried over magnesium sulfate then filtered through a layer of silica gel eluting with additional methylene chloride. The filtrate was concentrated under vacuum to provide a mixture which was carried on to thenext step.

reactant | 6-Chloro-5-methyl-N4 -(1,1-dimethylethyl)-N2,N2 -bis(phenylmethyl)pyridine-2,3,4-triamine | ClC1=C(C(=C(C(=N1)N(CC1=CC=CC=C1)CC1=CC=CC=C1)N)NC(C)(C)C)C | C24H29ClN4
reactant | triethyl orthoacetate | C(C)(OCC)(OCC)OCC | C8H18O3
product | 6-Chloro-2,7-dimethyl-1-(1,1-dimethylethyl)N4,N4 -bis(phenylmethyl)-1H -imidazo[4,5-c]pyridin-4-amine | ClC1=C(C2=C(C(=N1)N(CC1=CC=CC=C1)CC1=CC=CC=C1)N=C(N2C(C)(C)C)C)C | C26H29ClN4
